US06852731B2
N-(4-chlorobenzyl)-2-{[(2-hydroxyethyl)(2-hydroxy-2-phenylethyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (75 mg, 0.190 mmol), α-2-hydroxyethylaminomethyl-benzyl alcohol (Bulletin of the Chemical Society of Japan, 56(1), 212-18; 1983)(51 mg, 0.28 mmol) and diisopropylethylamine (50 μL, 0.29 mmol) in dry DMF (4.0 mL) was heated to 60° C. for 18 hours. The solution was then diluted with water (20 mL). The resulting precipitate was collected by filtration and the collected solid was dried in vacuo at 60° C. to provide the titled compound (92 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.190 mmol, 75 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | α-2-hydroxyethylaminomethyl-benzyl alcohol | OCCNCC(C1=CC=CC=C1)O | C10H15NO2
reactant | diisopropylethylamine | 0.29 mmol, 50 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[(2-hydroxyethyl)(2-hydroxy-2-phenylethyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 92 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(CC(C3=CC=CC=C3)O)CCO)C)=O)C=C1 | C28H30ClN3O4S
